US05922727
6-a) (4-t-Butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide
The carbon tetrabromide (1.39 g, 4.2 mmol) and triphenylphosphine (1.37 g, 5.2 mmol) were added in dichloromethane solution of (4-t-Butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl alcohol (0.85 g, 3.5 mmol) under ice bath and then stirred for 30 min at 0° C. The reaction mixture was stirred for overnight at room temperature, extracted with dichloromethane, dried with MgSO4, filtered, concentrated and separated by column chromatography to give a desirable product (0.53 g).

reactant | carbon tetrabromide | 4.2 mmol, 1.39 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 5.2 mmol, 1.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (4-t-Butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl alcohol | 3.5 mmol, 0.85 g | [Si](C)(C)(C(C)(C)C)OCC1CC=C(C1)CO | C13H26O2Si
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-t-Butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide | 0.53 g, Yield(%): 49.7 | [Si](C)(C)(C(C)(C)C)OCC1CC=C(C1)CBr | C13H25BrOSi
